Name:  ___      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R-sided weakness and speech difficulty
 
Major Surgical or Invasive Procedure:
Transesophageal echocardiogram ___

 
History of Present Illness:
HPI: The patient is a ___ with no PMH here with speech
difficulty, R facial droop and mild R arm weakness and gait
instability (drifting to the R) starting this AM. 

Last known well was 10pm on ___ per his wife. Pt reports 
that
he drank more than he usually did last night - 1 beer and 7
drinks of a "liquor" he cannot produce the name of. He also
reports that he had ground level fall last night causing some
right hip/back pain today. Denies any head stroke or loss of
consciousness. 

Pt took his son to school this AM and when he returned at around
10AM, his wife noted that there was something off about his
speech though it is unclear what this actually was. He was not
feeling well and wanted to go to sleep. He thought that he was
feeling unwell from drinking so much the night before. 

When he awoke at 12PM, he clearly had a right facial droop and
had difficulty with his speech. He reports that while he knew
what he wanted to say, he was either having difficulty getting
the words out or when they did come out, they would come out in
the wrong language - ___ instead of ___. She also noted
right arm weakness in that he could not lift one of their
children as well as a mildly unsteady gait when walking. 

At ___ he was out of the window for TPA. NCHCT was
performed showing L basal ganglia hypodensity. CTA H and N 
showed
no large vessel occlusion or dissection. He was transferred for
further management/imaging. 

On evaluation in BI ED, his speech is fluent and he reports it 
is
much improved from prior. He dose still seem to have some
difficulty with word finding. He does not think he is weak
anymore.  

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies loss of vision, blurred
vision, diplopia, dysarthria, or dysphagia. Denies focal muscle
weakness, numbness, parasthesia. Denies loss of sensation. 
Denies
bowel or bladder incontinence or retention.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, or abdominal
pain.  No dysuria. 
 
Past Medical History:
None
 
Social History:
___
Family History:
No family history of young stroke or clotting disorders. 
 
Physical Exam:
Admission Exam:

Vitals:98.1F, HR 72, 125/80, RR 16, 96% on RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. 
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent slightly slowed with intact
repetition and comprehension - however, he does at time appear 
to
have trouble finding certain words when giving a history. Normal
prosody. There were no paraphasic errors. Pt is unable to name
low frequency word but this is complicated by ___ being a
second language.  Able to read without difficulty. Speech was 
not
dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI: PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: R facial droop - delayed activation.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
*Subtle weakness in R arm/hand - Slowed RAM on the R despite
being R handed. +Orbiting around R arm. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, vibratory sense
around 15 seconds b/l feet, proprioception throughout. No
extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally - FNF on the right is
slower than the left.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Feels subjectively that he is leaning to the right. 
Unable
to tandem. Romberg absent.

=============================
Discharge Exam:

Vitals:98.1F, HR 57-78, 98-137/63-85, RR 18, 97-98% on RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. 
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent slightly slowed with intact 
repetition and comprehension - however, he does at time appear 
to have trouble finding certain words when giving a history. 
Normal prosody. There were no paraphasic errors. Pt is unable to 
name low frequency word but this is complicated by ___ being 
a second language.  Able to read without difficulty. Speech was 
not dysarthric. Able to follow both midline and appendicular 
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI: PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: R facial droop - delayed activation.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
*Subtle weakness in R arm/hand - Slowed RAM on the R despite 
being R handed. Improved Orbiting around R arm. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, vibratory sense 
around 15 seconds b/l feet, proprioception throughout. No 
extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally - FNF on the right is 
slightly slower than the left. Improved finger tap on R.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing. Feels subjectively that he is leaning to the right. 
Unable to tandem. Romberg absent.
 
Pertinent Results:
___ 05:45PM BLOOD WBC-8.5 RBC-5.28 Hgb-15.4 Hct-46.3 MCV-88 
MCH-29.2 MCHC-33.3 RDW-12.7 RDWSD-40.5 Plt ___
___ 05:45PM BLOOD ___ PTT-29.8 ___
___ 05:45PM BLOOD Glucose-93 UreaN-15 Creat-1.0 Na-136 
K-4.0 Cl-99 HCO3-26 AnGap-15
___ 05:45PM BLOOD ALT-25 AST-25 AlkPhos-67 TotBili-0.9
___ 06:30AM BLOOD CK(CPK)-134
___ 06:30AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:30AM BLOOD %HbA1c-5.3 eAG-105
___ 06:30AM BLOOD Triglyc-148 HDL-50 CHOL/HD-4.0 
LDLcalc-118
___ 06:30AM BLOOD TSH-1.2
___ 05:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:33PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 01:30PM BLOOD D-Dimer-1833*
___ 01:30PM BLOOD ProtCFn-79 ProtSFn-70

======================================================
Non-Contrast CT of Head ___ at Outside Hospital): L BG 
hypodensity involving L caudate, anterior limb of internal 
capsule.

CXR (___): Lungs clear.  Cardiomediastinal silhouette 
within normal limits. No acute osseous abnormalities. 

MRI Head w/ and w/o contrast (___): Hyperintense signal in 
the L caudate and putamen on DWI/FLAIR/T2 that is very 
hypointense on the ADC map, consistent with a late acute or 
early subacute infarct (series 6, image ___. Mild mass effect 
on the anterior horn of L lateral ventricle. No evidence of 
intracranial hemorrhage.

Transesophageal echocardiogram with bubble study (___): 
With maneuvers, early appearance of agitated saline/microbubbles 
in the left atrium/left ventricle most consistent with a small 
patent foramen ovale.

LENIS (___): No evidence of deep venous thrombosis in the 
right or left lower extremity veins. 

MRV Pelvis (___): No evidence of venous thrombosis of the 
infrahepatic IVC or pelvic veins.
 
Brief Hospital Course:
The patient is a ___ with no PMH who was transferred to the 
___ from ___ for further management and imaging of 
speech difficulty, R facial droop and mild R arm, weakness and 
gait instability (drifting to the R).  Last known well 10PM 
___. Neurologic exam in the ED was significant for slowed 
speech, difficulty with low frequency words, right facial droop, 
slowed RAM and orbiting with R arm, sensation of drifting to 
right with walking and inability to tandem.  He was admitted to 
strok neurology by neurology attending ___, MD.  MRI 
showed large infarct in the globus pallidus, interal capsule, 
putamen region with slight involvement of the head of the 
caudate. TEE found small PFO. LENIS and MRI pelvis showed no 
evidence of venous thrombosis. Hypercoaguability work-up pending 
for beta-2-microglobulin, antithrombin, cardiolipin, lupus, 
protein-S and protein-C.  
On admission he was started on ASA 81mg daily. Before discharge 
he was started on atorvastatin 40mg daily.  He will follow up 
with out-patient genetic testing for vWF and Factor V Leiden 
immediately after discharge.  He will follow up in stroke 
clinic, and family was told to contact Dr. ___ to be seen 
sooner. 

===============================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? () Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - () No  
4. LDL documented? () Yes (LDL = ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - () No [if LDL 
>100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - () No [reason () 
non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? () Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No  
9. Discharged on statin therapy? () Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? () Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - () N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth DAILY Disp #*90 
Tablet Refills:*3 
3.Outpatient Speech/Swallowing Therapy
ICD-9 CODE: ACUTE ISCHEMIC INFARCT 

Contact: Dr. ___
4.Outpatient Occupational Therapy
ICD 9 CODE: Acute ischemic infarct

Contact: Dr. ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left middle cerebral artery stroke, caused by paradoxical 
embolus
Patent foramen ovale

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of speech difficulties, 
right facial droop, right arm weakness, and gait instability 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
Patent foramen ovale

We are changing your medications as follows:  
1. Please start taking Aspirin 81 mg daily
2. Please start taking Atorvastatin 40mg daily 
  
Please followup with Neurology and your primary care physician 
as listed below.  Please email Dr. ___ (email provided 
on business card) to have a sooner appointment. 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___